US09029374B2
8-(1-bromoethyl)-N,N-dimethyl-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxamide hydrobromide (150 mg, 0.30 mmol) and 4-fluoroaniline (0.113 mL, 1.19 mmol) in DMA (1 mL) were stirred at RT for 4 hrs. The reaction mixture was filtered and purified by preparative HPLC using a reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 mL/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. A further purification was done by flash chromatography on silica gel eluting with 0 to 10% MeOH in DCM. The solvent was evaporated to dryness to afford a oil which was triturated with pentane to give 8-(1-(4-fluorophenylamino)ethyl)-N,N-dimethyl-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxamide (80 mg, 59%) as a white solid.

reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.30 mmol, 150 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)N(C)C
reactant | 4-fluoroaniline | 1.19 mmol, 0.113 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 8-(1-(4-fluorophenylamino)ethyl)-N,N-dimethyl-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxamide | 80 mg, 59% | FC1=CC=C(C=C1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)N(C)C | C25H28FN3O4
